US03975537
Acylation of 9.4 g. (0.054 mol.) of 2-n-butylbenzofuran with 9.9 g. (0.058 mol.) of o-anisoyl chloride according to the procedure described in Example 10 gave 2-n-butyl-3-(2'-methoxybenzoyl)benzofuran which was demethylated with pyridine hydrochloride as previously described to give 2-n-butyl-3-(2'-hydroxybenzoyl)benzofuran.

reactant | 2-n-butylbenzofuran | 0.054 mol | C(CCC)C=1OC2=C(C1)C=CC=C2 | C12H14O
reactant | o-anisoyl chloride | 0.058 mol | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
product | 2-n-butyl-3-(2'-methoxybenzoyl)benzofuran | C(CCC)C=1OC2=C(C1C(C1=C(C=CC=C1)OC)=O)C=CC=C2 | C20H20O3
